US07652051B2
Synthesis of 4-[3-(4-chloro-3-trifluoromethyl-phenylamino)-benzo[1,2,4]triazin-7-yloxy]-pyridine-2-carboxylic acid methylamide trifluoroacetate salt
To a vial with 2 mL of anhydrous dimethylformamide under argon atmosphere were added 15.4 mg (0.0168 mmol, 0.05 equivalent) of tris(dibenzyllideneatone) dipalladium(0), 21.0 mg (0.033 mmol, 0.1 equivalent) of BINAP, 220.0 mg (0.675 mmol, 2.0 equivalent) of anhydrous cesium carbonate, 175.1 mg (0.675 mmol, 2.0 equivalent) of 5-bromo-2-chlorobenzotrifluoride, and 100 mg (0.337 mmol, 1.0 equivalent) of 4-(3-amino-benzo[1,2,4]triazin-7-yloxy)-pyridine-carboxylic acid methylamide, in that particular order. Argon gas was bubbled through the mixture for 5 min. Then the vial was capped and the reaction mixture was heated to 120° C. with stirring under argon atmosphere for 18 hours. At this point LC/MS indicated about 40% conversion to the product. As pointed out in the previous examples, the longer reaction times result in the formation of the by-product and partial decomposition. So, the reaction mixture was allowed to cool down to ambient temperature, filtered through 0.3 μm syringe filter and purified by reverse-phase prep-HPLC using acetonitrile/water mixture with 0.1% of TFA.

reactant | BINAP | 0.033 mmol, 21.0 mg, 0.1 equivalent | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | cesium carbonate | 0.675 mmol, 220.0 mg, 2.0 equivalent | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 5-bromo-2-chlorobenzotrifluoride | 0.675 mmol, 175.1 mg, 2.0 equivalent | BrC=1C=CC(=C(C1)C(F)(F)F)Cl | C7H3BrClF3
reactant | 4-(3-amino-benzo[1,2,4]triazin-7-yloxy)-pyridine-carboxylic acid methylamide | 0.337 mmol, 100 mg, 1.0 equivalent | CNC(=O)C1=NC=CC(=C1)OC1=CC2=C(N=C(N=N2)N)C=C1 | C14H12N6O2
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 4-[3-(4-chloro-3-trifluoromethyl-phenylamino)-benzo[1,2,4]triazin-7-yloxy]-pyridine-2-carboxylic acid methylamide trifluoroacetate salt | FC(C(=O)O)(F)F.CNC(=O)C1=NC=CC(=C1)OC1=CC2=C(N=C(N=N2)NC2=CC(=C(C=C2)Cl)C(F)(F)F)C=C1 | InChI=1S/C21H14ClF3N6O2.C2HF3O2/c1-26-19(32)18-10-13(6-7-27-18)33-12-3-5-16-17(9-12)30-31-20(29-16)28-11-2-4-15(22)14(8-11)21(23,24)25;3-2(4,5)1(6)7/h2-10H,1H3,(H,26,32)(H,28,29,31);(H,6,7)
